US07834051B2
5-(tert-butoxymethyl)-3,3-dimethylpyrrolidine-2,4-dione
To a solution of ethyl 4-{[(benzyloxy)carbonyl]amino}-5-tert-butoxy-2,2-dimethyl-3-oxopentanoate (8.7 g) in methanol (100 mL) was added 10% palladium carbon (containing 50% water, 4.0 g), and the mixture was stirred overnight under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The obtained solid was washed with hexane to give the title compound as colorless crystals (yield: 3.81 g, 81%).

reactant | ethyl 4-{[(benzyloxy)carbonyl]amino}-5-tert-butoxy-2,2-dimethyl-3-oxopentanoate | 8.7 g | C(C1=CC=CC=C1)OC(=O)NC(C(C(C(=O)OCC)(C)C)=O)COC(C)(C)C | C21H31NO6
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium carbon | 4.0 g | [C].[Pd]
product | 5-(tert-butoxymethyl)-3,3-dimethylpyrrolidine-2,4-dione | yield: 3.81 g, 81% | C(C)(C)(C)OCC1C(C(C(N1)=O)(C)C)=O | C11H19NO3
